US07317015B2
Synthesis of 4-sec-butylamino-6-chloro-5-(2-chloro-6-fluorophenyl)-pyrimidine-2-thiocarbamide
At room temperature, hydrogen sulfide was introduced for 5 minutes into a solution of 1.0 g (2.9 mmol) of 4-sec-butylamino-6-chloro-5-(2-chloro-6-fluorophenyl)pyrimidine-2-carbonitrile in 0.36 g of triethylamine and 12 ml of N-methylpyrrolidone. After the reaction had ended, 20 ml of water were added, the mixture was neutralized with acetic acid and extracted with methyl tert-butyl ether and the organic phase was washed with water, dried over magnesium sulfate and concentrated.

reactant | hydrogen sulfide | S | H2S
reactant | 4-sec-butylamino-6-chloro-5-(2-chloro-6-fluorophenyl)pyrimidine-2-carbonitrile | 2.9 mmol, 1.0 g | C(C)(CC)NC1=NC(=NC(=C1C1=C(C=CC=C1F)Cl)Cl)C#N | C15H13Cl2FN4
reactant | water | 20 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.36 g | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 12 ml | CN1C(CCC1)=O | C5H9NO
product | 4-sec-butylamino-6-chloro-5-(2-chloro-6-fluorophenyl)-pyrimidine-2-thiocarbamide | C(C)(CC)NC1=NC(=NC(=C1C1=C(C=CC=C1F)Cl)Cl)C(N)=S | C15H15Cl2FN4S
